US05387617
Ammonia, 400 mL, was cooled to -78° C. and 1.15 g of lithium wire was added. After the lithium had dissolved, a solution of 15.5 g of 4,4-diphenyl-4-methoxybut-1-ene in 100 mL of THF was added dropwise, over 1 hr. The mixture was warmed to reflux, then cooled to -78° C. Isoprene, 4 mL, was added to the reaction mixture to quench excess lithium, followed by 4 mL of methanol to quench the diphenylalkyl anion. The mixture was acidified with 9 g of ammonium chloride and the ammonia allowed to evaporate at room temperature. The residue was shaken with chloroform and water. The organic layer was dried and concentrated in vacuo to give 14.3 g of crude residue which, after chromatography on silica gel with chloroform as eluent, gave 13.9 g of 4,4-diphenylbut-1-ene which is characterized by:

reactant | Ammonia | N | H3N
reactant | lithium | 1.15 g | [Li] | Li
reactant | 4,4-diphenyl-4-methoxybut-1-ene | 15.5 g | C1(=CC=CC=C1)C(CC=C)(OC)C1=CC=CC=C1 | C17H18O
reactant | Isoprene | C=CC(C)=C | C5H8
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4,4-diphenylbut-1-ene | 13.9 g | C1(=CC=CC=C1)C(CC=C)C1=CC=CC=C1 | C16H16
